### PR TITLE
feat(Logics/Propositional): definitions

### PR DESCRIPTION
**Pull request by thomaskwaring**
This PR defines propositions for propositional logic, including notation for the logical connectives. A `Theory` is a set of `Proposition`. Also defines minimal, intuitionistic and classical theories, and extensions of maps `Atom → Atom'` to maps `Proposition Atom → Proposition Atom'` and `Theory Atom → Theory Atom'`.

### CODE REVIEW

File: Cslib/Logics/Propositional/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,155 @@
...
+
+We introduce notation for the logical connectives: `⊥ ⊤ ⋏ ⋎ ⟶ ~` for, respectively, falsum, verum,
+conjunction, disjunction, implication and negation.
+-/
+
+universe u
+
+variable {Atom : Type u} [DecidableEq Atom]
+
+namespace PL
```
Comment (fmontesi) [inline Cslib/Logics/Propositional/Defs.lean]: I'd call this either `Cslib.Logic.PL` or `Cslib.Logic.Propositional`

File: Cslib/Logics/Propositional/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,155 @@
...
+
+/-- Propositions. -/
+inductive Proposition (Atom : Type u) : Type u where
+  /-- Propositional atoms -/
+  | atom (x : Atom)
+  /-- Conjunction -/
+  | conj (a b : Proposition Atom)
```
Comment (fmontesi) [inline Cslib/Logics/Propositional/Defs.lean]: `and`

File: Cslib/Logics/Propositional/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+  /-- Disjunction -/
+  | disj (a b : Proposition Atom)
```
Comment (fmontesi) [inline Cslib/Logics/Propositional/Defs.lean]: `or`

File: Cslib/Logics/Propositional/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,155 @@
...
+abbrev Proposition.neg [Bot Atom] : Proposition Atom → Proposition Atom := (Proposition.impl · ⊥)
+
+/-- A fixed choice of a derivable proposition (of course any two are equivalent). -/
+abbrev Proposition.top [Inhabited Atom] : Proposition Atom := impl (.atom default) (.atom default)
+
+instance instTopProposition [Inhabited Atom] : Top (Proposition Atom) := ⟨.top⟩
+
+example [Bot Atom] : (⊤ : Proposition Atom) = Proposition.impl ⊥ ⊥ := rfl
+
+@[inherit_doc] scoped infix:35 " ⋏ " => Proposition.conj
```
Comment (fmontesi) [inline Cslib/Logics/Propositional/Defs.lean]: This is purely aesthetic, so not important for merging:

I know that we should avoid overlapping notation with Lean's core, but this all makes me a bit sad. This is *the* logic of ∧, →, etc. :-)
Have you tried using the standard symbols? They'd be in a different kind, so maybe it'd work.

File: Cslib/Logics/Propositional/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,155 @@
...
+instance {Atom Atom' : Type u} : FunLike (Atom → Atom') (Theory Atom) (Theory Atom') where
+  coe := Theory.map
+  coe_injective' f f' h := by
+    ext x
+    have : Theory.map f {Proposition.atom x} = Theory.map f' {Proposition.atom x} :=
+      congrFun h {Proposition.atom x}
+    simpa [Theory.map, Proposition.map] using this
+
+/-- The base theory is minimal propositional logic. -/
+abbrev MPL : Theory (Atom) := ∅
```
Comment (fmontesi) [inline Cslib/Logics/Propositional/Defs.lean:106]: Would it make sense to namespace this under Theory? (Theory.Minimal or Theory.MPL)

File: Cslib/Logics/Propositional/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,155 @@
...
+
+instance {Atom Atom' : Type u} : FunLike (Atom → Atom') (Theory Atom) (Theory Atom') where
+  coe := Theory.map
+  coe_injective' f f' h := by
+    ext x
+    have : Theory.map f {Proposition.atom x} = Theory.map f' {Proposition.atom x} :=
+      congrFun h {Proposition.atom x}
+    simpa [Theory.map, Proposition.map] using this
+
+/-- The base theory is minimal propositional logic. -/
```
Comment (fmontesi) [inline Cslib/Logics/Propositional/Defs.lean]: I'm a bit unsure if saying 'is' is correct here. Thoughts?

**Review by fmontesi — CHANGES_REQUESTED** [review]

File: Cslib/Logics/Propositional/Defs.lean (hunk 4 above)
Comment (thomaskwaring) [reply Cslib/Logics/Propositional/Defs.lean]: it seems to work okay actually, i've changed it now & if it breaks later we can revert

File: Cslib/Logics/Propositional/Defs.lean (hunk 5 above)
Comment (thomaskwaring) [reply Cslib/Logics/Propositional/Defs.lean:106]: good point, thanks

File: Cslib/Logics/Propositional/Defs.lean (hunk 6 above)
Comment (thomaskwaring) [reply Cslib/Logics/Propositional/Defs.lean]: how about now?

**Review by fmontesi — APPROVED** [review]
